US03992535
N-(4,5-Dimethyl-2-thiazolyl)-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide was prepared analogous to Example 37 from 4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide and 2-amino-4,5-dimethyl-thiazole. Yield: 35% of theory;m.p. 253° C (decomp.; from xylene).

reactant | 4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide | COC(=O)C=1NS(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O | C14H11NO5S
reactant | 2-amino-4,5-dimethyl-thiazole | NC=1SC(=C(N1)C)C | C5H8N2S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-(4,5-Dimethyl-2-thiazolyl)-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | Yield: 35% | CC=1N=C(SC1C)NC(=O)C=1NS(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O | C18H15N3O4S2
